US06350749B1
To a mixture of 5-(2-fluorophenyl)cyclohexane-1,3-dione (0.98 g), 1-amino-2-butyne hydrochloride (0.5 g), molecular sieves 4A (2 g) and tetrahydrofuran (20 ml) was added triethylamine (0.48 g), and the mixture was stirred at room temperature for 1 hour, refluxed for 12 hours and cooled. Insoluble materials were filtered off. Under reduced pressure, the solvent was evaporated, and the residue was stirred for 6 hours at 220° C. and cooled, to which were added ethyl acetate and sodium hydrogen carbonate solution. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane) to give oil of 7-(2-fluorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (0.35 g).

reactant | 5-(2-fluorophenyl)cyclohexane-1,3-dione | 0.98 g | FC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11FO2
reactant | 1-amino-2-butyne hydrochloride | 0.5 g | Cl.NCC#CC
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.48 g | C(C)N(CC)CC | C6H15N
product | 7-(2-fluorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 0.35 g | FC1=C(C=CC=C1)C1CC(C=2C(=CC=NC2C1)C)=O | C16H14FNO
